US06140332
6-Carboxy-4-(3-chloro-anilino)-7H-pyrrolo[2,3-d]pyrimidine
A solution of 25 mg (0.6 mmol) of LiOH.H2O in 0.4 ml of H2O is added dropwise to a suspension of 95 mg (0.30 mmol) of 4-(3-chloro-anilino)-6-ethoxycarbonyl-7H-pyrrolo[2,3-d]pyrimidine in 0.7 ml of methanol. The reaction mixture is heated at boiling for 4.5 hours, then cooled in an ice-bath and acidified with 0.6 ml of 1 N HCl solution. Filtering and washing with water yield the title compound; HPLC: tRet (Grad20)=8.7; FAB-MS: (M+H)+ =289.

reactant | LiOH.H2O | 0.6 mmol, 25 mg | O[Li].O
reactant | 4-(3-chloro-anilino)-6-ethoxycarbonyl-7H-pyrrolo[2,3-d]pyrimidine | 0.30 mmol, 95 mg | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C(=O)OCC)C=CC1 | C15H13ClN4O2
reactant | HCl | 1 N, 0.6 ml | Cl | ClH
solvent | H2O | 0.4 ml | O | H2O
solvent | methanol | 0.7 ml | CO | CH4O
product | 6-Carboxy-4-(3-chloro-anilino)-7H-pyrrolo[2,3-d]pyrimidine | C(=O)(O)C1=CC2=C(N=CN=C2NC2=CC(=CC=C2)Cl)N1 | C13H9ClN4O2
